US03971806
5-(2-Morpholinoethyl)thiopyrano[3,2-b]indol-4(5H)-one
4.8 g of thiopyrano [3,2-b]indol-4(5H)-one and 15 g of chloroethylmorpholine, are reacted in the same manner as described in Example 14, except that the crude free base crystallized. This is filtered and recrystallized from methylenechloride-hexane to give 5.1 g of product, mp 136°-137°C.

reactant | thiopyrano [3,2-b]indol-4(5H)-one | 4.8 g | S1C=CC(C=2NC=3C=CC=CC3C21)=O | C11H7NOS
reactant | chloroethylmorpholine | 15 g | ClCCN1CCOCC1 | C6H12ClNO
product | 5-(2-Morpholinoethyl)thiopyrano[3,2-b]indol-4(5H)-one | 5.1 g | O1CCN(CC1)CCN1C2=C(C=3C=CC=CC13)SC=CC2=O | C17H18N2O2S
